US05280026
2-(2-Methylphenylamino)-4-(N-methylphenylamino)thieno[3.2-d]pyrimidine.
2-(2-Methylphenylamino)-4-chlorothieno[3,2-d]-pyrimidine (1.5 g, 0.0054 mol) and N-methylaniline (1.16 g, 0.0054 mol) were heated in an oil bath at 140° for 2 hours. The reaction mixture was diluted with dichloromethane (100 ml) and washed with 2N hydrochloric acid (3×100 ml), then sodium carbonate solution. The dichloromethane extracts were dried over magnesium sulphate, filtered and evaporated to give a solid. Recrystallization from methanol gave the title compound, (0.75 g) m.p. 198°-200°.

reactant | 2-(2-Methylphenylamino)-4-chlorothieno[3,2-d]-pyrimidine | 0.0054 mol, 1.5 g | CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CS2)Cl | C13H10ClN3S
reactant | N-methylaniline | 0.0054 mol, 1.16 g | CNC1=CC=CC=C1 | C7H9N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(2-Methylphenylamino)-4-(N-methylphenylamino)thieno[3.2-d]pyrimidine | 0.75 g | CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CS2)N(C)C2=CC=CC=C2 | C20H18N4S
